US05624943
Under the conditions of example 5 A, 5 g of 3-(3-hydroxy-6-iodo-2-pyridyl)-propionic acid methyl ester is reacted with 1.37 g of 4-pentyn-1-ol, worked up, and the crude product is chromatographed on silica gel with hexane/0-4% methanol. 1.2 g of 3-[3-hydroxy-6-(5-hydroxy-1-pentynyl)-2-pyridyl]-propionic acid methyl ester is obtained as colorless oil.

reactant | 3-(3-hydroxy-6-iodo-2-pyridyl)-propionic acid methyl ester | 5 g | COC(CCC1=NC(=CC=C1O)I)=O | C9H10INO3
reactant | 4-pentyn-1-ol | 1.37 g | C(CCC#C)O | C5H8O
product | 3-[3-hydroxy-6-(5-hydroxy-1-pentynyl)-2-pyridyl]-propionic acid methyl ester | 1.2 g | COC(CCC1=NC(=CC=C1O)C#CCCCO)=O | C14H17NO4
